US09085576B2
Step 5: 5-chloro-3-(fluoromethyl)picolinic acid
To a solution of 5-chloro-3-(fluoromethyl)picolinaldehyde (55 mg, 0.32 mmol) in THF (2 mL) and water (4 mL) was added solid NaOH (13 mg) at 0° C. After 10 min, KMNO4 (100 mg) was added in one portion. After additional 10 min, the reaction mixture was filtered through a pad of celite. The celite was washed with 1 M HCl (10 mL), water and EtOAc. The phases were separated and the aqueous phase was extracted with EtOAc. The combined organic layers were dried over MgSO4 and the filtrate was concentrated under reduced pressure. The title compound was obtained as a yellow residue and taken onto the next step without further purification. LC/MS m/z=172.1 [M+H]+.

reactant | 5-chloro-3-(fluoromethyl)picolinaldehyde | 0.32 mmol, 55 mg | ClC=1C=C(C(=NC1)C=O)CF | C7H5ClFNO
reactant | NaOH | 13 mg | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 5-chloro-3-(fluoromethyl)picolinic acid | ClC=1C=C(C(=NC1)C(=O)O)CF | C7H5ClFNO2
